US09447091B2
a) Ethyl 2-(1H-1,2,4-triazol-1-yl)acetate
To a solution of 1H-1,2,4-triazol (2 g, 29.9 mmol, 1.0 eq) in DMF were added K2CO3 (12.3 g, 88.9 mmol, 3 eq.) and ethyl 2-bromoacetate (4.8 g, 29.9 mmol, 1 eq). The mixture was stirred at RT for 16 h. The mixture was quenched and extracted as in Intermediate Example 5(a). The solvent was distilled off to give the product in 65% yield (3 g). LC-MS (ESI): Calculated mass: 155.0; Observed mass: 156.1 [M+H]+ (rt: 0.113 min).

reactant | 1H-1,2,4-triazol | 29.9 mmol, 2 g, 1.0 eq | N1N=CN=C1 | C2H3N3
reactant | K2CO3 | 88.9 mmol, 12.3 g, 3 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromoacetate | 29.9 mmol, 4.8 g, 1 eq | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 2-(1H-1,2,4-triazol-1-yl)acetate | 65% yield | N1(N=CN=C1)CC(=O)OCC | C6H9N3O2
